US07528147B2
2-[5-Methoxy-6-(2-acetyloxyethoxy)-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure described in example 147d, but using 0.246 ml of 2-bromoethyl acetate and 0.5 g of 2-[1-methyl-5-methoxy-6-hydroxyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine. After purification by flash-pack chromatography (silica, 40/60 by volume ethyl acetate/cyclohexane as eluents), 0.506 g of 2-[5-methoxy-6-(2-acetyloxyethoxy)-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is obtained, the characteristics of which are as follows:

reactant | 2-bromoethyl acetate | 0.246 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | 2-[1-methyl-5-methoxy-6-hydroxyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.5 g | CN1C=C(C2=CC(=C(C=C12)O)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
product | 2-[5-methoxy-6-(2-acetyloxyethoxy)-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.506 g | COC=1C=C2C(=CN(C2=CC1OCCOC(C)=O)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C28H27N3O6S
